US05864043
4'-[(2-n-Butyl-6-(N-cyclohexylaminocarbonylamino)-benzimidazol-1-yl)-methyl]-5-chloro-2-(1H-tetrazol-5-yl)-biphenyl
Prepared in analogous manner to Example 59 from 4'-[(3-n-butyl-6-(N-cyclohexylaminocarbonylamino)-benzimidazol-1-yl)-methyl]-5-chloro-2-cyano-biphenyl and sodium azide/ammonium chloride.

reactant | 4'-[(3-n-butyl-6-(N-cyclohexylaminocarbonylamino)-benzimidazol-1-yl)-methyl]-5-chloro-2-cyano-biphenyl | C(CCC)N1CN(C2=C1C=CC(=C2)NC(=O)NC2CCCCC2)CC2=CC=C(C=C2)C2=C(C=CC(=C2)Cl)C#N | C32H36ClN5O
reactant | sodium azide ammonium chloride | [N-]=[N+]=[N-].[Na+].[Cl-].[NH4+]
product | 4'-[(2-n-Butyl-6-(N-cyclohexylaminocarbonylamino)-benzimidazol-1-yl)-methyl]-5-chloro-2-(1H-tetrazol-5-yl)-biphenyl | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)C1=NN=NN1)C=C(C=C2)NC(=O)NC2CCCCC2 | C32H35ClN8O
